US05994368
To a solution of bis(trichloromethyl)carbonate (232 mg), pyridine (273 mg) in dichloromethane was added 8-(2,6-dichloro-3-methylaminobenzyloxy)-2-methylquinoline (800 mg) at 0° C. under nitrogen atmosphere, and the mixture was stirred for 1 hour at ambient temperature. To the mixture were added glycine ethyl ester hydrochloride (289 mg) and triethylamine (582 mg), and the mixture was stirred for 3 hours at ambient temperature. The mixture was poured into water and extracted with dichloromethane. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated. The residue was purified by flash chromatography (chloroform) to give 8-[2,6-dichloro-3-(N'-ethoxycarbonylmethyl-N-methylureido)benzyloxy]-2-methylquinoline (512 mg) as a powder.

reactant | bis(trichloromethyl)carbonate | 232 mg | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | pyridine | 273 mg | N1=CC=CC=C1 | C5H5N
reactant | 8-(2,6-dichloro-3-methylaminobenzyloxy)-2-methylquinoline | 800 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1NC)Cl | C18H16Cl2N2O
reactant | glycine ethyl ester hydrochloride | 289 mg | Cl.C(C)OC(CN)=O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 582 mg | C(C)N(CC)CC | C6H15N
product | 8-[2,6-dichloro-3-(N'-ethoxycarbonylmethyl-N-methylureido)benzyloxy]-2-methylquinoline | 512 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C(=O)NCC(=O)OCC)C)Cl | C23H23Cl2N3O4
